US07612091B2
5-Chloro-2(2-methoxyvinyl)-benzoic acid
To a cooled (0° C.) slurry of methoxymethyltriphenylphosphonium chloride (39 g) in a mixture of diethyl ether (200 ml) and tert-butanol (50 ml) was added potassium tert-butoxide (12.8 g) portionwise. The resulting mixture was stirred at 0° C. for 1 hour, then a solution of 2-formyl-5-chlorobenzoic acid (prepared as described in J. Org. Chem. 1996, 61, 3402)(10 g) in diethyl ether (50 ml) was added dropwise over 15 minutes. The resulting mixture was stirred for 1 hour at 0° C., then warmed to ambient and stirred for an additional 90 minutes. The mixture was diluted with water (200 ml) and the organic phase removed. The aqueous phase was acidified to pH1 with 1M HCl and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with brine, dried (magnesium sulfate), filtered and concentrated. The residue was purified by flash chromatography (50% ethyl acetate/hexane) to afford the sub-title compound as a yellow solid (9.13 g, 80%): 1H NMR (400 MHz, CDCl3) δ 3.70-3.81 (3H, s), 6.20(0.3H, d), 6.30 (0.3H, d), 6.80(0.7H, d), 7.01 (0.7H, d), 7.30-8.15 (3H, m).

reactant | methoxymethyltriphenylphosphonium chloride | 39 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 12.8 g | CC(C)([O-])C.[K+]
reactant | 2-formyl-5-chlorobenzoic acid | 10 g | C(=O)C1=C(C(=O)O)C=C(C=C1)Cl | C8H5ClO3
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | tert-butanol | 50 ml | C(C)(C)(C)O | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 5-Chloro-2(2-methoxyvinyl)-benzoic acid | 9.13 g, 80% | ClC=1C=CC(=C(C(=O)O)C1)C=COC | C10H9ClO3
